US06492520B1
1-(1-Ethyl-propyl)-7-methyl-5-(2,4,6-trimethyl-phenoxy)-3,4-dihydro-1H-[1,6]naphthyridin-2-one
A mixture of 2-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylmethyl]-malonic acid diisopropyl ester (40 mg, 0.078 mmol) and 85% phosphoric acid was heated at 73° C. overnight, and then heated at 133° C. for 1 hour. The reaction mixture was cooled, quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give a brown oil. The oil residue was purified through silica gel column chromatography using 3% ethyl acetate in hexane as eluent to give 28 mg (98%) of the title compound. 1H NMR (CDCl3) δ 6.89(s,2H), 6.56(s,1H), 4.4(m,1H), 3.00(m,2H), 2.67(m,2H), 2.31(s,3H), 2.25(s,3H), 2.07(s,6H), 1.86(m,4H), 0.90(t,6H) ppm.

reactant | 2-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylmethyl]-malonic acid diisopropyl ester | 0.078 mmol, 40 mg | C(C)(C)OC(C(C(=O)OC(C)C)CC=1C(=NC(=CC1NC(CC)CC)C)OC1=C(C=C(C=C1C)C)C)=O | C30H44N2O5
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 1-(1-Ethyl-propyl)-7-methyl-5-(2,4,6-trimethyl-phenoxy)-3,4-dihydro-1H-[1,6]naphthyridin-2-one | 28 mg, 98% | C(C)C(CC)N1C(CCC2=C(N=C(C=C12)C)OC1=C(C=C(C=C1C)C)C)=O | C23H30N2O2
